US07417062B2
Step 1: [3-(2-Methyl-piperidin-1-yl)-propyl]-naphthalen-2-ylmethyl-amine.
2-Naphtaldehyde 1 g (6.4 mmol), 3-(2-methyl-piperidin-1-yl)-propylamine 0.99 g (6.4 mmol), in 25 mL of dry dichloromethane was added 5 g of molecular sieve. The reaction was stirred overnight at room temperature. The molecular sieve was filtered and dichloromethane was concentrated under vacuum. To the mixture was added 15 mL of dry methanol and sodium borohydride 0.3 g (8 mmol) after 30 minutes reaction goes to completion, methanol was concentrated under vacuum, and was diluted with chloroform, organic layer was washed with 2 times 20 mL water, followed with brine. The organic layer was dried over magnesium sulfate and concentrated under vacuum. The compound was purified using silica gel chromatography elution, with 3.5% methanol in chloroform, yield 0.6 g oil.

reactant | 2-Naphtaldehyde | 6.4 mmol, 1 g | C1=C(C=CC2=CC=CC=C12)C=O | C11H8O
reactant | 3-(2-methyl-piperidin-1-yl)-propylamine | 6.4 mmol, 0.99 g | CC1N(CCCC1)CCCN | C9H20N2
reactant | methanol | 15 mL | CO | CH4O
reactant | sodium borohydride | 8 mmol, 0.3 g | [BH4-].[Na+]
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | [3-(2-Methyl-piperidin-1-yl)-propyl]-naphthalen-2-ylmethyl-amine | CC1N(CCCC1)CCCNCC1=CC2=CC=CC=C2C=C1 | C20H28N2
